US07488739B2
Diethyl ethoxymethylenemalonate was added to 3,4-difluoroaniline at ambient temperature and the mixture was stirred at 130° C. for 17 hours. After diphenyl ether was additionally added to the reaction mixture, stirring was done at 260° C. for one hour. A solid obtained by leaving the reaction mixture to stand for cooling to ambient temperature was filtered, to obtain ethyl 6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate.

reactant | Diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | FC=1C=C2C(C(=CNC2=CC1F)C(=O)OCC)=O | C12H9F2NO3
